US09065058B2
Step 1: Synthesis of 4-(9H-Carbazol-3-yl)dibenzofuran
In a 200-mL three-neck flask were put 2.0 g (8.1 mmol) of 3-bromocarbazole, 1.7 g (8.1 mmol) of dibenzofuran-4-boronic acid, and 150 mg (0.5 mol) of tri(ortho-tolyl)phosphine, and the air in the flask was replaced with nitrogen. To this mixture were added 20 mL of toluene, 20 mL of ethanol, and 15 mL (0.2 mol) of an aqueous potassium carbonate solution (2.0 mol/L). In the flask, the mixture was degassed by being stirred under reduced pressure. After 23 mg (0.10 mmol) of palladium(II) acetate was added to this mixture, the mixture was refluxed at 80° C. After the reflux, the mixture was cooled to room temperature, and then the obtained solid was collected by suction filtration. The collected solid was dissolved in 100 mL of toluene, and this solution was filtered through Celite (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 531-16855), alumina, and Florisil (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 540-00135). The solid obtained by concentration of the obtained filtrate was recrystallized from toluene/hexane, so that 2.3 g of a white solid was obtained in 85% yield. The synthesis scheme of Step 1 is illustrated in (a-2).

reactant | 3-bromocarbazole | 8.1 mmol, 2.0 g | BrC=1C=CC=2NC3=CC=CC=C3C2C1 | C12H8BrN
reactant | dibenzofuran-4-boronic acid | 8.1 mmol, 1.7 g | C1=CC=C(C=2OC3=C(C21)C=CC=C3)B(O)O | C12H9BO3
reactant | tri(ortho-tolyl)phosphine | 0.5 mol, 150 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | potassium carbonate | 0.2 mol, 2.0 mol/L, 15 mL | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium(II) acetate | 0.10 mmol, 23 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(9H-Carbazol-3-yl)dibenzofuran | 85% yield | C1=CC(=CC=2C3=CC=CC=C3NC12)C1=CC=CC2=C1OC1=C2C=CC=C1 | C24H15NO
